US07279478B2
Synthesis of (2S)-2-{[(R)-[4-(1,1′-biphenyl-4-ylcarbonyl)phenyl](phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide
Using the same procedures as described for the example 50, (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide (105 mg, 0.253 mmol) was reacted with 1,1′-biphenyl-4-ylboronic acid (50 mg, 0.253 mmol, 1 eg) to give the title compound after chromatography with 20% EtOAc/hexane.

reactant | (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide | 0.253 mmol, 105 mg | BrC1=CC=C(C=C1)[C@H](O[C@H](C(=O)NCC#N)CC(C)C)C1=CC=CC=C1 | C21H23BrN2O2
reactant | 1,1′-biphenyl-4-ylboronic acid | 0.253 mmol, 50 mg | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (2S)-2-{[(R)-[4-(1,1′-biphenyl-4-ylcarbonyl)phenyl](phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide | C1(=CC=C(C=C1)C(=O)C1=CC=C(C=C1)[C@H](O[C@H](C(=O)NCC#N)CC(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C34H32N2O3
